data/mechanism_extracts/ACSCatal/10.1021_acscatal.9b02348.json
{"doi": "10.1021_acscatal.9b02348", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Copper-electrocatalyzed C-H alkynylation/annulation of benzamides bearing 8-aminoquinoline directing group with terminal alkynes (or alkynyl carboxylic acids) to form isoindolones, with H2 as the sole byproduct.", "mechanism_family": ["electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of Cu(I)/Cu(II) intermediates to Cu(III) drives carboxylate-assisted C-H activation and reductive elimination; cathode reduces protons to H2", "key_intermediates": [{"name": "Cu(II)-benzamide complex 5 (8-aminoquinoline-chelated)", "smiles": null, "role": "transient"}, {"name": "Cu(III)-carboxylate complex 6 after anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "Cu(III) cyclometalated intermediate 7 after CMD C-H activation", "smiles": null, "role": "reactive"}, {"name": "Cu(III)-alkynyl/aryl complex 8 after ligand exchange with terminal alkyne", "smiles": null, "role": "reactive"}, {"name": "ortho-alkynylated benzamide 4 (post reductive elimination)", "smiles": null, "role": "transient"}, {"name": "Cu(I) species (CuOPiv) 9 released after reductive elimination", "smiles": null, "role": "transient"}, {"name": "Cu(II)(OPiv)2 10 (regenerated catalyst)", "smiles": null, "role": "resting_state"}, {"name": "isoindolone product 3 from intramolecular hydroamidation/cyclization of 4", "smiles": null, "role": "reactive"}], "electron_flow": "Substrate coordinates to Cu(II); anodic oxidation gives Cu(III) carboxylate which performs CMD C-H activation on the benzamide; ligand exchange with terminal alkyne and reductive elimination delivers the ortho-alkynylated arene and Cu(I); Cu(I) is reoxidized to Cu(II) at the anode (PCET) while protons are reduced to H2 at the cathode; the alkynylated intermediate cyclizes to the isoindolone.", "rate_determining_step": "Not C-H cleavage (KIE ≈ 1.2 and no H/D scrambling); likely the anodic Cu oxidation / subsequent organometallic step", "probe_reagents": [{"name": "para-substituted benzamide competition (1l CF3 vs 1i Me; 2g CF3-aryl alkyne vs 2b tolyl alkyne)", "smiles": null, "purpose": "other", "observation": "Electron-poor substrates react preferentially (3la/3ia = 3.2; 3ag/3ab = 2.3), inconsistent with SET-based anilide oxidation and consistent with concerted metalation-deprotonation"}, {"name": "CD3OD cosolvent", "smiles": "[2H]C([2H])([2H])O[2H]", "purpose": "H/D_labeling", "observation": "<5% D incorporation into recovered 1a and into product 3aa; H/D exchange not observed, indicating C-H cleavage is irreversible and not rate-limiting"}, {"name": "[D5]-1a (perdeuterated benzamide)", "smiles": null, "purpose": "KIE", "observation": "Parallel in operando React-IR gave kH/kD ≈ 1.2, supporting facile (non-rate-limiting) C-H scission"}, {"name": "independently prepared ortho-alkynylated benzamide 4", "smiles": null, "purpose": "intermediate_trap", "observation": "Delivered 3aa in 81% under electrolysis and 80% without electricity, confirming 4 as on-cycle intermediate and that cyclization is non-electrochemical"}, {"name": "headspace GC", "smiles": null, "purpose": "other", "observation": "Detected H2 as sole gaseous byproduct, consistent with cathodic proton reduction"}, {"name": "cyclic voltammetry of Cu(OAc)2 with NaOAc and 1a", "smiles": null, "purpose": "redox_probe", "observation": "Cu(II)+1a shows oxidation at 0.95 V vs SCE (assigned to Cu(II)→Cu(III)); CuOAc reoxidation at 0.05 V; 1a itself shows no competitive oxidation, ruling out substrate SET"}, {"name": "in operando React-IR kinetics", "smiles": null, "purpose": "other", "observation": "Monitored growth of 3aa (1721 cm-1) and decay of 1a, enabling initial-rate KIE determination"}], "evidence_types_used": ["KIE", "H/D_labeling", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "kinetic_order"], "evidence_strength": "strong", "notes": "Authors explicitly exclude a substrate SET-oxidation (radical cation) pathway based on Hammett-type competition (electron-poor benzamides faster) and CV (no oxidation of 1a in the operating window), distinguishing this Cu electrocatalysis from prior anilide SET functionalizations. The protocol is extended to decarboxylative C-H/C-C scission with alkynyl carboxylic acids 11 (Scheme 8), presumed via in situ decarboxylative generation of a Cu-acetylide that enters the same Cu(I)/Cu(III) cycle. Final isoindolone formation is a thermal (non-electrochemical) intramolecular hydroamidation of intermediate 4."}
